US08022075B2
2-Amino-5-bromo-3-nitropyridine (218 mg) and 4-(1,3-oxazol-5-yl)benzaldehyde (173 mg) were suspended in dimethylsulfoxide (2 mL), followed by stirring at 80° C. for 20 minutes. Ethanol (4 mL) and 1M aqueous sodium hydrosulfite solution (3 mL) were added to the solution, followed by refluxing under heating for 15 hours. After the reaction mixture had been left to cool, water (20 mL) and concentrated aqueous ammonia solution (500 μL) were added thereto, and the precipitated solid was recovered through filtration, followed by washing with water and drying under reduced pressure, to thereby yield a 1:1 mixture (258 mg) of 5-[4-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenyl]-1,3-oxazole and 5-[4-(6-bromo-1H-imidazo[4,5-b]pyridin-2-yl)phenyl]-1,3-oxazole.

reactant | 2-Amino-5-bromo-3-nitropyridine | 218 mg | NC1=NC=C(C=C1[N+](=O)[O-])Br | C5H4BrN3O2
reactant | 4-(1,3-oxazol-5-yl)benzaldehyde | 173 mg | O1C=NC=C1C1=CC=C(C=O)C=C1 | C10H7NO2
reactant | sodium hydrosulfite | 1M, 3 mL | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | ammonia | 500 μL | N | H3N
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | water | 20 mL | O | H2O
solvent | Ethanol | 4 mL | C(C)O | C2H6O
product | 5-[4-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenyl]-1,3-oxazole | 258 mg | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)C2=CN=CO2 | C15H9BrN4O
